US06610723B2
(1-Quinolin-6-yl-1H-imidazol-4-yl)-methanol
Following the general method described in example 388, 1-quinolin-6-yl-1H-imidazole-4-carboxylic acid ethyl ester was reacted with diisobutylaluminum hydride. After hydrolytic workup and chromatography the title compound was obtained as a light brown crystalline solid. Mp. 183-187° C. (AcOEt/hexane), MS: m/e=226 (M+H+).

reactant | 1-quinolin-6-yl-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CN(C1)C=1C=C2C=CC=NC2=CC1 | C15H13N3O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (1-Quinolin-6-yl-1H-imidazol-4-yl)-methanol | N1=CC=CC2=CC(=CC=C12)N1C=NC(=C1)CO | C13H11N3O
